Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:7]#[C:9][O:10][H:11].[H:8]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9][O:10][H:11],-2.8278308885500003
[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])=[C:13]([H:14])[H:15],1.65671807197
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]=[C:13]([H:14])[H:15]>>[C:7]([H:8])[H:9].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:10]([H:11])=[C:12]=[C:13]([H:14])[H:15],5.2389145538
[H:7].[O:1]=[C:2]([H:3])[O:4][C:5](=[C:6])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([H:3])[O:4][C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[H:11],-4.26202934384
[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17],-4.62623011061
[C:1]=[C:2]([H:3])[C:5]([C:6]#[C:7])[O:8][H:9].[H:4]>>[C:1][C:2]([H:3])([H:4])[C:5]([C:6]#[C:7])[O:8][H:9],-1.6202979135299995
[O:1]=[C:2]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:3]>>[O:1][C:2]([O:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-0.825571520001
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[C:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2][O:3][C:4]=[C:5]([H:6])[H:7],1.16161389987
[H:1][C:2]([H:3])([H:4])[O:5][C@@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([H:3])([H:4])[O:5][C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])[H:14],4.06719981867
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[H:13].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:14]([H:15])[H:16],1.91176332775
[O:1][C:2]#[C:3][C:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]=[C:3]1[C:4][C@:5]1([H:6])[C:7]([H:8])([H:9])[H:10],1.8949798064400003
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][H:8]>>[C:3][C:4]([H:5])([H:6])[O:7][H:8].[H:1][C:2],10.54638672
[H:12].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.40229940883
[H:1][C:2]([C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:5](#[C:6][H:7])[C:9]([H:10])[H:11].[H:1][C:2][C:3]([H:4])([H:8])[H:12],5.04780647487
[H:1][O:2][C:3]([H:4])([O:5][H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12],1.92788673391
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[H:13].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12],1.9908375191
[C:1].[C:2]([O:3][H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]=[C:2]([O:3][H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],-5.64217737247
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6][O:7][H:8]>>[H:8].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]=[O:7],1.83214316234
[H:1][O:2][C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[H:10]>>[H:1][O:2][C:3][H:4].[O:5]=[C:6][C:7]([H:8])([H:9])[H:10],0.516950834451
[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][C:4][O:5][H:6]>>[H:1][C:2]#[C:3][C:4]([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-3.62506651067
[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9],4.556312039
[O:1]=[C:2]([C:3](=[C:4][H:5])[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:3](#[C:4][H:5])[O:6][H:7].[O:1]=[C:2][C:8]([H:9])([H:10])[H:11],1.32094093304
[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[O:9][H:10]>>[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])[O:9][H:10].[H:8],4.09058315057
[C:1]=[C:2]1[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]1[H:11]>>[C:1]([C:2]#[C:3])([H:7])[C:10]([H:4])([C:8](=[C:5][H:6])[H:9])[H:11],2.24329257458
[C:2]=[C:3]([C:4]([H:5])[C:6][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14])[H:7].[H:1]>>[H:1][C:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.85090342513
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][H:13]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:10](\[H:11])[O:12][H:13].[H:9],1.99254156982
[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.12331187427
[C:1]=[C:2]([O:3][H:4])[O:5][C:6]([H:7])([H:8])[C:9][H:10]>>[C:1]#[C:2][O:5][C:6]([H:7])([H:8])[C:9][H:10].[O:3][H:4],4.11760713019
[H:8].[O:1]=[C:2]([H:3])[C:4][O:5][C:6]#[C:7]>>[O:1]=[C:2]([H:3])[C:4][O:5][C:6]#[C:7][H:8],-5.53740227362
